US09120749B2
{4-[4-(2-Aminopropan-2-yl)phenylamino]-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl 2-{4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]phenyl}propan-2-ylcarbamate (0.140 mmol) was reacted with TFA (2 mL) to afford the desired product (22 mg, 32% over two steps) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-I) δ 9.38 (s, 1H), 8.26 (dd, J=8.9, 1.9 Hz, 1H), 8.12 (s, 1H), 8.05 (d, J=8.8 Hz, 1H), 7.69 (d, J=8.0, 2H), 7.54 (d, J=8.0 Hz, 2H), 7.30 (t, J=1.9 Hz, 1H), 7.10-7.03 (m, 1H), 2.84-2.76 (m, 1H), 1.79 (s, 6H), 1.19-1.12 (m, 4H).; ESI MS m/z 490 [C28H25ClFN3O2+H]+; HPLC>99% (AUC), tR=10.80 min.

reactant | tert-butyl 2-{4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]phenyl}propan-2-ylcarbamate | 0.140 mmol | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O | C33H33ClFN3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {4-[4-(2-Aminopropan-2-yl)phenylamino]-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone | 22 mg, 32% | NC(C)(C)C1=CC=C(C=C1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)F)O)Cl)C(=O)C1CC1 | C28H25ClFN3O2
